US04591626
In a 10-liter separable flask equipped with a stirrer, a condenser and a water separator, 2700 g of tricyclo[5.2.1.02,6 ]deca-8-ol, 1588 g of acrylic acid, 2700 g of toluene, 135 g of p-toluenesulfonic acid, and 0.64 g of hydroquinone monomethyl ether were placed and reacted at 115° C. with stirring for 2 hours while removing the water generated out of the system. Then, the reaction solution was taken out of the flask and then subjected to distillation to remove low boiling point components. Then, 15 g of hydroquinone monomethyl ether was added to the resulting solution and distillation under reduced pressure was conducted to isolate a distillate having a boiling point of 87°-92° C. under 0.7 mmHg. The distillate was washed with an aqueous solution of 2% KOH, washed with water, dehydrated and filtered to give tricyclo[5.2.1.02,6 ]deca-8-yl acrylate (hereinafter referred to as "TCD-AA") in 70% yield and 99.5% purity.

reactant | water | O | H2O
reactant | acrylic acid | 1588 g | C(C=C)(=O)O | C3H4O2
reactant | p-toluenesulfonic acid | 135 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydroquinone monomethyl ether | 0.64 g | COC1=CC=C(O)C=C1 | C7H8O2
solvent | toluene | 2700 g | C1(=CC=CC=C1)C | C7H8
product | deca-8-yl acrylate | 70% yield | C(C=C)(=O)OC(CCCCCCC)CC | C13H24O2
